US07915424B2
5-(4-Fluoro-3-nitrophenylethynyl)-nicotinonitrile
Prepare essentially as described in EXAMPLE 142 using 4-bromo-1-fluoro -2-nitrobenzene (1.0 g, 4.5 mmol) and 5-ethynylnicotinonitrile, (prepared as described in PREPARATION 4), (0.7 g, 5.5 mmol) to give the title compound as a yellow solid (0.11 g, 9%).

reactant | 4-bromo-1-fluoro -2-nitrobenzene | 4.5 mmol, 1.0 g | BrC1=CC(=C(C=C1)F)[N+](=O)[O-] | C6H3BrFNO2
reactant | 5-ethynylnicotinonitrile | 5.5 mmol, 0.7 g | C(#C)C=1C=NC=C(C#N)C1 | C8H4N2
product | 5-(4-Fluoro-3-nitrophenylethynyl)-nicotinonitrile | 0.11 g, 9% | FC1=C(C=C(C=C1)C#CC=1C=NC=C(C#N)C1)[N+](=O)[O-] | C14H6FN3O2
